US05173493
A mixture of 8,9-dihydro-7,10-dimethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (3.78 g), aqueous 3N sodium hydroxide solution (10 ml), ethanol (10 ml) and dioxane (5 ml) was heated at 90° C. for 30 hours. After evaporation of the solvent, the residue was diluted with water, neutralized with aqueous oxalic acid solution, and extracted three times with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to give 2-methyl-4-(3-methylindol-2-yl)-2-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]butyric acid (3.3 g) as an amorphous powder. The product was used in the next reaction without purification.

reactant | 8,9-dihydro-7,10-dimethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 3.78 g | CC1(CCC=2N(C3=CC=CC=C3C2C)C1=O)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H35N3O
reactant | sodium hydroxide | 3N, 10 ml | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-4-(3-methylindol-2-yl)-2-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]butyric acid | 3.3 g | CC(C(=O)O)(CCC=1NC2=CC=CC=C2C1C)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H37N3O2
